US05416097
2,2-DIMETHYL-6-(1H-IMIDAZOL-1 -YL)BENZOPYRAN
To a stirred solution of 20 g (0.11 mol) of 6-amino-2,2-dimethylbenzopyran and 70 g (0.91 mol) of ammonium acetate in 190 mL of acetic acid and 770 mL of MeOH at 65° C. is added dropwise over 0.5 h, a mixture of 11.1 g (0.14 mol) of formaldehyde and 20g (0.14 mol) of glyoxal. The mixture is stirred for 1 hour at 65° C., then poured onto 800 g of ice. The pH of the solution is adjusted to 10 by the addition of concentrated ammonium hydroxide. The mixture is extracted with dichloromethane (3×200 mL) and the combined organic extracts are dried with sodium sulfate, filtered and evaporated under reduced pressure. The resulting oil is subjected to chromatography on silica gel utilizing 3% methanol in dichloromethane as eluent. The eluates are analyzed utilizing thin layer chromatography and appropriate fractions are combined and evaporated to produce the title compound.

reactant | 6-amino-2,2-dimethylbenzopyran | 0.11 mol, 20 g | NC=1C=CC2=C(C=CC(O2)(C)C)C1 | C11H13NO
reactant | ammonium acetate | 0.91 mol, 70 g | C(C)(=O)[O-].[NH4+]
reactant | formaldehyde | 0.14 mol, 11.1 g | C=O | CH2O
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 190 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 770 mL | CO | CH4O
product | 2,2-DIMETHYL-6-(1H-IMIDAZOL-1 -YL)BENZOPYRAN | CC1(OC2=C(C=C1)C=C(C=C2)N2C=NC=C2)C | C14H14N2O
